*****************************************************************
* NXP BUK7Y72-80E
*
* Polarity N-Channel
* Ratings 80V/7.200000E-002OHMS/15.7862262989963A
*
* Date Created Tue Feb 05 03:09:28 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y72-80E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 80000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0353295870672511 TC=0.00568891030322171,2.011696535998E-05
RBD 9 4 0.00378270787111959 TC=0.00568891030322171,2.011696535998E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.9e-10
RG 1 2 7.37663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	447.016
+ -10	446.301
+ -8	445.312
+ -6	443.61
+ -5	441.699
+ -4	430.054
+ -3	442.073
+ -2	366.272
+ -1	280.112
+ -0.5	206.092
+ -0.2	159.976
+ -0.1	159.098
+ 0	143.40698
+ 0.1	128.35056
+ 0.2	128.22128
+ 0.5	117.12896
+ 1	103.70198
+ 2	86.05232
+ 3	79.72878
+ 4	76.23912
+ 5	73.78996
+ 6	71.89588
+ 8	68.99429
+ 10	66.71296
+ 12	64.78846
+ 15	62.37329
+ 16	61.64002
+ 20	59.20934
+ 25	56.74981
+ 30	54.78502
+ 50	49.88913



.MODEL MINT NMOS(Vto=3.27437399507536 Kp=10 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=8.31318992180562e-14
+ N=1 M=0.57 VJ=0.51 Fc=0.5 Cjo=1.847164e-10 Tt=1.5488e-08)

.ENDS

